US06627630B1
Production of 6-[3-[4-(Diphenylmethyl)-1-piperazinyl]propoxy]-2-methoxyimidazo[1,2-b]pyridazine
251 mg of 4-(diphenylmethyl)-1-piperazinepropanol was dissolved in 14 ml of N,N-dimethylformamide; 36 mg of a 60% sodium hydride dispersion in mineral oil was added, followed by stirring at 60° C. for 30 minutes. After cooling, 149 mg of 6-chloro-2-methoxyimidazo[1,2-b]pyridazine was added, followed by stirring at 90° C. for 4.5 hours. After cooling, ice water and sodium chloride were added, followed by extraction with ethyl acetate-tetrahydrofuran (1:2); the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate. The desired fraction was collected; the crystal precipitated was recrystallized from ethyl acetate to yield 99 mg of the title compound.

reactant | 4-(diphenylmethyl)-1-piperazinepropanol | 251 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCO)C1=CC=CC=C1 | C20H26N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 6-chloro-2-methoxyimidazo[1,2-b]pyridazine | 149 mg | ClC=1C=CC=2N(N1)C=C(N2)OC | C7H6ClN3O
reactant | sodium chloride | [Cl-].[Na+]
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 6-[3-[4-(Diphenylmethyl)-1-piperazinyl]propoxy]-2-methoxyimidazo[1,2-b]pyridazine | 99 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCOC=1C=CC=2N(N1)C=C(N2)OC)C2=CC=CC=C2 | C27H31N5O2
